US06627651B1
To a mixture of methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.40 g), 4-propylphenylboric acid (0.49 g), cupric acetate (0.27 g), MS 4A (0.8 g) and dichloromethane (15 ml) was added at room temperature triethylamine (1.04 ml), and the resulting mixture was stirred for 20 hours. The reaction mixture was filtered to remove an insoluble material and the filtrate was concentrated under reduced pressure. The residue was subjected to separation and purification using column chromatography (ethyl acetate:hexane 1:2) to obtain methyl 7-(4-propylphenoxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.40 g) as a light yellow, oily substance.

reactant | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.40 g | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 4-propylphenylboric acid | 0.49 g | C(CC)C1=CC=C(C=C1)OB(O)O | C9H13BO3
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
product | methyl 7-(4-propylphenoxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.40 g | C(CC)C1=CC=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C21H22O5S
